US04916152
To a solution of (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-methoxycarbonyl-1-pentenyl]pyrrolidine 500 mg) in dry tetrahydrofuran (20 ml) was added lithium aluminum hydride (34 mg) under ice bath cooling. After the mixture was stirred in an ice bath for 30 minutes, aqueous tetrahydrofuran was added thereto and the mixture was filtered through Celite. The filtrate was washed successively with water and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was solidified with ether to give (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-6-hydroxy-1-hexenyl]pyrrolidine (350 mg).

reactant | (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-methoxycarbonyl-1-pentenyl]pyrrolidine | 500 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/CCCC(=O)OC | C23H26Cl2N2O6S2
reactant | lithium aluminum hydride | 34 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-6-hydroxy-1-hexenyl]pyrrolidine | 350 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/CCCCO | C22H26Cl2N2O5S2
